US03951867
The samples in this series are prepared by the coprecipitation of the mixed hydrous oxides of tin and cerium from aqueous solutions using ammonium hydroxide as a precipitating agent. Ce(NO3)3.6H2O and SnCl4.5H2O are added to 1 liter of water in proportions calculated to yield a selected mole ratio of SnO2 :CeO2. NH4OH is then added to the solution of Ce(NO3)3.6 H2O + SnCl4.5H2O in an amount sufficient to provide a pH of 9 in the solution, at which pH coprecipitation of hydrous tin oxide and cerium oxide occurs. The precipitate is then well washed and filtered until the pH of the filtrate is close to 7. Finally, each filter cake is dried at 140°C. for 16 hours, calcined at 800°C. for 24 hours, and subjected to surface area determination.

reactant | cerium | [Ce] | Ce
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | SnCl4.5H2O | [Sn](Cl)(Cl)(Cl)Cl.O.O.O.O.O
reactant | NH4OH | [NH4+].[OH-]
solvent | water | 1 liter | O | H2O
product | H2O SnCl4.5H2O | O.[Sn](Cl)(Cl)(Cl)Cl.O.O.O.O.O | InChI=1S/4ClH.6H2O.Sn/h4*1H;6*1H2;/q;;;;;;;;;;+4/p-4
